US07790885B2
Methyl azetidine-3-carboxylate hydrochloride
4N hydrochloric acid in ethyl acetate (12.7 ml) and 20% palladium hydroxide (3.57 g) were added to a solution of methyl 1-benzhydrylazetidine-3-carboxylate (3.57 g) in methanol (360 ml), followed by stirring under a pressurized hydrogen atmosphere (0.4 MPa) at room temperature for 11 hours. The catalyst was removed by filtration, and washed with methanol and water. The filtrate was concentrated to give a crude product of the target compound as a pale yellow oil, which was used in the next reaction supposing that the reaction proceeded quantitatively and 1.93 g of the product was obtained.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | methyl 1-benzhydrylazetidine-3-carboxylate | 3.57 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)OC | C18H19NO2
solvent | ethyl acetate | 12.7 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 360 ml | CO | CH4O
catalyst | palladium hydroxide | 3.57 g | [OH-].[Pd+2].[OH-]
product | Methyl azetidine-3-carboxylate hydrochloride | Cl.N1CC(C1)C(=O)OC | InChI=1S/C5H9NO2.ClH/c1-8-5(7)4-2-6-3-4;/h4,6H,2-3H2,1H3;1H
